US07902252B2
4.20. Synthesis of ethyl 6-(3-chloro-5-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. Ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.40 g, 2.23 mmol) was reacted with 3-chloro-5-fluorobenzylmagnesium chloride (0.25 M in diethyl ether, 23.0 mL, 5.6 mmol) according to General Procedure 3 to give the exocyclic olefin-containing compound (Z)-ethyl 6-(3-chloro-5-fluorobenzylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate, followed by hydrogenation according to General Procedure 6 (with Pt2O), and was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-20% EtOAc/heptane affording the product as brown solid: 0.055 g (11% yield).

reactant | Ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 2.23 mmol, 0.40 g | O=C1CCC2=C1NC(=C2)C(=O)OCC | C10H11NO3
reactant | 3-chloro-5-fluorobenzylmagnesium chloride | 5.6 mmol, 0.25 M, 23.0 mL | ClC=1C=C(C[Mg]Cl)C=C(C1)F
product | ethyl 6-(3-chloro-5-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 11% yield | ClC=1C=C(CC2CCC3=C2NC(=C3)C(=O)OCC)C=C(C1)F | C17H17ClFNO2
